US06239239B1
Preparation of 8-Quinolinoxytitanium Trichloride
The reaction is performed under an atmosphere of dry nitrogen. 8-Quinolinol powder (1.45 g, 10.0 mmol) is added to a flask and is stirred at room temperature for 10 min. Heptane (100 mL) is added, and the mixture is stirred at 40° C. for 30 min. The stirring rate is adjusted to prevent solids from depositing on the walls of the flask. Titanium tetrachloride (10 mL of 1.0 M solution in heptane) is added dropwise to the quinolinol, and the reaction mixture is stirred at room temperature for 20 h at a rate effective to prevent solids from depositing on the walls of the flask. The color changes from white to tomato-juice red. The solids are isolated by decanting the liquid portion. Residual solvent is removed from the solids using vacuum and a nitrogen purge for 30 min. The flask containing the red, solid product, 8-quinolinoxytitanium trichloride (3.04 g), is transferred to a dry box. For comparison purposes, a sample of this material is tested in the ethylene polymerization described in Example 6. The results are reported in Table 1 for Example “C1.”

reactant | 8-Quinolinol | 10.0 mmol, 1.45 g | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | Titanium tetrachloride | 1.0 M, 10 mL | [Ti](Cl)(Cl)(Cl)Cl
reactant | quinolinol | N1=C(C=CC2=CC=CC=C12)O | C9H7NO
solvent | Heptane | 100 mL | CCCCCCC | C7H16
product | 8-Quinolinoxytitanium Trichloride | [Cl-].[Cl-].[Cl-].N1=CC=CC2=CC=CC(=C12)O[Ti+3] | InChI=1S/C9H7NO.3ClH.Ti/c11-8-5-1-3-7-4-2-6-10-9(7)8;;;;/h1-6,11H;3*1H;/q;;;;+4/p-4
